US04780480
2-Propen-1-yl 7-(4-methylthiobenzoyl)benzofuran-5-ylacetate
Allyl alcohol (2.0 ml) was added to a solution of 7-(4-methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetyl chloride (2.0 g) in acetonitrile (100 ml) and triethylamine (2.0 ml). This solution was stirred at room temperature for 12 hours. The solvent was then evaporated to dryness and the residue was taken up in a solution of ethyl acetate/water, washed 3 times with water, the ethyl acetate dried and evaporated to dryness after which the residue was purified by chromatography.

reactant | Allyl alcohol | 2.0 ml | C(C=C)O | C3H6O
reactant | 7-(4-methylthiobenzoyl)-2,3-dihydrobenzofuran-5-ylacetyl chloride | 2.0 g | CC1=CC=C(C(=S)C2=CC(=CC=3CCOC32)CC(=O)Cl)C=C1 | C18H15ClO2S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 2-Propen-1-yl 7-(4-methylthiobenzoyl)benzofuran-5-ylacetate | CC1=CC=C(C(=S)C2=CC(=CC=3C=COC32)CC(=O)OCC=C)C=C1 | C21H18O3S
